US05051422
N-[[1-(3,4-Dichlorophenyl)-4-(1,1-dimethylethyl)piperazin-2-yl]methyl]-4-(1H-imidazol-1-yl)benzamide
In a manner similar to preparation 7, react 4-(1H-imidazol-1-yl)benzoic acid, 1,1-carbonyldiimidazole and 1-(3,4-dichlorophenyl)-4-(1,1-dimethylethyl)-2-piperazinemethanamine to obtain the title compound.

reactant | 4-(1H-imidazol-1-yl)benzoic acid | N1(C=NC=C1)C1=CC=C(C(=O)O)C=C1 | C10H8N2O2
reactant | 1-(3,4-dichlorophenyl)-4-(1,1-dimethylethyl)-2-piperazinemethanamine | ClC=1C=C(C=CC1Cl)N1C(CN(CC1)C(C)(C)C)CN | C15H23Cl2N3
product | N-[[1-(3,4-Dichlorophenyl)-4-(1,1-dimethylethyl)piperazin-2-yl]methyl]-4-(1H-imidazol-1-yl)benzamide | ClC=1C=C(C=CC1Cl)N1C(CN(CC1)C(C)(C)C)CNC(C1=CC=C(C=C1)N1C=NC=C1)=O | C25H29Cl2N5O
